US06465687B1
3-Bromo-5-chloro-4-hydroxyphenylacetic acid methyl ester (1.1 g) was coupled with bis (3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate (2.9 g) by the procedure described in Example 1(a) to afford 3-bromo-5-chloro-4-(4-methoxy-3-isopropylphenoxy) phenylacetic acid methyl ester (1.1 g, 67%).

reactant | 3-Bromo-5-chloro-4-hydroxyphenylacetic acid methyl ester | 1.1 g | COC(CC1=CC(=C(C(=C1)Cl)O)Br)=O | C9H8BrClO3
reactant | bis (3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate | 2.9 g | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
product | 3-bromo-5-chloro-4-(4-methoxy-3-isopropylphenoxy) phenylacetic acid methyl ester | 1.1 g, 67% | COC(CC1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)C)Br)=O | C19H20BrClO4
